US06407111B1
(RS)-2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4-chloro-2-(2-chloro-phenylsulfanyl)-phenyl]-N-methyl-propionamide
To a solution of 142 mg (0.5 mmol) of 1-chloro-4-methylamino-3-(2-chloro-phenylsulfanyl)-benzene in 2 ml of 1,2-dichloroethane were added 172 mg (0.6 mmol) of 2-(3,5-bis-trifluoromethyl-phenyl)-propionic acid and the reaction mixture was shaken at 80° C. for 1 h. Dicyclohexyl carbodiimide (97 mg, 0.6 mmol) was added and shaking was continued overnight at the same temperature. The solvent was evaporated and the residue obtained was purified by column chromatography on silica gel to yield 56 mg (20%) of the title compound as light yellow oil.

reactant | 1-chloro-4-methylamino-3-(2-chloro-phenylsulfanyl)-benzene | 0.5 mmol, 142 mg | ClC1=CC(=C(C=C1)NC)SC1=C(C=CC=C1)Cl | C13H11Cl2NS
reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-propionic acid | 0.6 mmol, 172 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)O)C)(F)F | C11H8F6O2
reactant | Dicyclohexyl carbodiimide | 0.6 mmol, 97 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | 1,2-dichloroethane | 2 ml | ClCCCl | C2H4Cl2
product | (RS)-2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4-chloro-2-(2-chloro-phenylsulfanyl)-phenyl]-N-methyl-propionamide | 56 mg, 20% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C1=C(C=C(C=C1)Cl)SC1=C(C=CC=C1)Cl)C)(F)F | C24H17Cl2F6NOS
